US05977105
(2R)-1-(3'-Aminobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Aqueous sodium carbonate solution (2 M, 1.55 ml) was added to a solution of (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol (0.50 g), 3-aminobenzeneboronic acid monohydrate (0.26 g) and tetrakis(triphenylphosphine)palladium(0) (0.045 g) in ethanol (1.72 ml) and toluene (6.9 ml). The mixture was stirred at reflux under a nitrogen atmosphere for 3 hours and then, cooled to room temperature. The reaction mixture was poured into water and then extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane:methanol (19:1) to give the title compound (0.43 g) as an which was recrystallised from isohexane:ethyl acetate to give a white solid.

reactant | sodium carbonate | 2 M, 1.55 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol | 0.50 g | BrC1=CC=C(OC[C@@H](CCC=2C=NC=CC2)O)C=C1 | C15H16BrNO2
reactant | 3-aminobenzeneboronic acid monohydrate | 0.26 g | O.NC=1C=C(C=CC1)B(O)O
reactant | water | O | H2O
solvent | ethanol | 1.72 ml | C(C)O | C2H6O
solvent | toluene | 6.9 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R)-1-(3'-Aminobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.43 g | NC=1C=C(C=CC1)C1=CC=C(C=C1)OC[C@@H](CCC=1C=NC=CC1)O | C21H22N2O2
